US05616599
23(i) 4-Acetyl-2-propylimidazole-5-carbonitrile
194 ml of a 1M solution of methylmagnesium bromide in tetrahydrofuran were added dropwise at a temperature of 10° C. to 15° C. and under an atmosphere of nitrogen to a solution of 10 g of 2-propylimidazole-4,5-dicarbonitrile (prepared as described in Preparation 10) in 100 ml of tetrahydrofuran, and the resulting mixture was stirred at a temperature of 10° C. to 15° C. for 30 minutes. The reaction mixture was then cooled, and 200 ml of ethyl acetate and 100 ml of a saturated aqueous solution of ammonium chloride were added to it. The mixture was then acidified by adding an aqueous solution of potassium bisulfate. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue was subjected to column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 9.18 g of the title compound as crystals, melting at 93°-95° C.

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 2-propylimidazole-4,5-dicarbonitrile | 10 g | C(CC)C=1NC(=C(N1)C#N)C#N | C8H8N4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | potassium bisulfate | S([O-])(O)(=O)=O.[K+]
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-Acetyl-2-propylimidazole-5-carbonitrile | 9.18 g | C(C)(=O)C=1N=C(NC1C#N)CCC | C9H11N3O
